US07820426B2
Spherical HSF and CPMV were successfully self-assembled as a monolayer at the perfluorodecalin-water interfaces. The closely packed CPMV and HSF assembly at interfaces were then crosslinked with glutaraldehyde. These reactions did not disrupt the integrity of the BNP particles. In this study, perfluorodecalin droplets with diameters from 10 to 100 microns were obtained by adding perfluorodecalin into a dispersion of the fluorescently labeled CPMV or HSF in buffer solution, followed by shaking. The particles, dispersed in water, assembled at the perfluorodecalin-water interfaces, stabilizing the dispersion of the water droplets.

reactant | perfluorodecalin water | FC1(C(C(C(C2(C(C(C(C(C12F)(F)F)(F)F)(F)F)(F)F)F)(F)F)(F)F)(F)F)F.O
reactant | glutaraldehyde | C(CCCC=O)=O | C5H8O2
product | perfluorodecalin | FC1(C(C(C(C2(C(C(C(C(C12F)(F)F)(F)F)(F)F)(F)F)F)(F)F)(F)F)(F)F)F | C10F18
